US06794395B1
1-hydroxy-6-nitro-2-indolinone
2.0 g of 2,4-dinitrophenylacetic acid (prepared according to J: Chem. Soc. 1948, 1717) are dissolved in 40 ml ethanol and 6.0 ml of conc. hydrochloric acid and 4.1 g of tin-(II)-chloride-dihydrate are added in batches at ambient temperature. The mixture is stirred for 12 hours at ambient temperature and for 4 hours at 60° C. After cooling another 2.0 g of tin-(II)-chloride-dihydrate are added and the mixture is stirred for another 12 hours at ambient temperature. The reaction mixture is diluted with water, extracted with methylene chloride and the organic phase is dried over sodium sulphate. After elimination of the solvent the residue is triturated with ether and the precipitate is filtered off.

reactant | 2,4-dinitrophenylacetic acid | 2.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6N2O6
reactant | hydrochloric acid | 6.0 ml | Cl | ClH
reactant | tin-(II)-chloride-dihydrate | 4.1 g | O.O.[Sn](Cl)Cl
reactant | tin-(II)-chloride-dihydrate | 2.0 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-hydroxy-6-nitro-2-indolinone | ON1C(CC2=CC=C(C=C12)[N+](=O)[O-])=O | C8H6N2O4
